US04792570
A solution of 1-(4-biphenyloxy)-6-chlorohexane (10.0 g) and potassium phthalimide (9.0 g) in dimethylformamide (100 ml) was heated at 140° C. for 4 hours. The cooled solution was poured into water (900 ml) and filtered to yield N-[6-(4-biphenyloxy) hexyl]phthalimide. (b) In a similar manner, but using the appropriate corresponding optionally substituted 1-(3- or 4-biphenyloxy)-ω-chloroalkane, obtained as described in Preparation 4, the following compounds of Formula C were prepared:

reactant | 1-(4-biphenyloxy)-6-chlorohexane | 10.0 g | C1(=CC=C(C=C1)OCCCCCCCl)C1=CC=CC=C1 | C18H21ClO
reactant | potassium phthalimide | 9.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 900 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[6-(4-biphenyloxy) hexyl]phthalimide | C1(=CC=C(C=C1)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C26H25NO3
